US09328110B2
The 2-butyl-1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline from the previous step and tetrabutylammonium fluoride (142 mL of a 1 M solution in tetrahydrofuran) were dissolved in tetrahydrofuran (THF) (400 mL) and stirred for 1 hour, then concentrated under reduced pressure to provide 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol (20.0 g) as a light brown solid after chromatography on silica gel (elution with 10% methanol in dichloromethane).

reactant | 2-butyl-1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCO[Si](C)(C)C(C)(C)C | C24H37N3OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 20.0 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCO | C18H23N3O
